US07642264B2
2-(4-Bromo-imidazol-1-yl)-4-difluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine
The title compound was prepared from 2-chloro-4-difluoromethyl-6-(4-trifluoromethylphenyl)-pyrimidine (example A.5) (1.0 g, 3.24 mmol) and commercially available 4-bromo-imidazole (0.71 g, 4.86 mmol) according to the general procedure IVa. Obtained as a light brown solid (0.98 g, 72%). MS (ISP) 420.9 [(M+H)+]; mp 147° C.

reactant | 2-chloro-4-difluoromethyl-6-(4-trifluoromethylphenyl)-pyrimidine | 3.24 mmol, 1.0 g | ClC1=NC(=CC(=N1)C(F)F)C1=CC=C(C=C1)C(F)(F)F | C12H6ClF5N2
reactant | 4-bromo-imidazole | 4.86 mmol, 0.71 g | BrC=1N=CNC1 | C3H3BrN2
product | 2-(4-Bromo-imidazol-1-yl)-4-difluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine | BrC=1N=CN(C1)C1=NC(=CC(=N1)C(F)F)C1=CC=C(C=C1)C(F)(F)F | C15H8BrF5N4
